US06245804B1
6.6 g of 4-bromo-5-nitrophthalide is dissolved in 45 ml of ethanol and added in drops to a mixture of 65 g of iron(II) sulfate, 220 ml of water and 65 ml of ammonia (33%) that is heated to 60° C. and stirred well. After 2 hours at 60° C., the mixture is absorptively precipitated five times with 200 ml of diethyl ether. The diethyl ether phases are concentrated by evaporation. As a residue, 4.1 g of 4-bromo-5-aminophthalide is obtained, melting point 176-180° C.

reactant | 4-bromo-5-nitrophthalide | 6.6 g | BrC1=C2COC(=O)C2=CC=C1[N+](=O)[O-] | C8H4BrNO4
reactant | water | 220 ml | O | H2O
reactant | ammonia | 65 ml | N | H3N
solvent | ethanol | 45 ml | C(C)O | C2H6O
catalyst | iron(II) sulfate | 65 g | S(=O)(=O)([O-])[O-].[Fe+2]
product | 4-bromo-5-aminophthalide | 4.1 g | BrC1=C2COC(=O)C2=CC=C1N | C8H6BrNO2
